US09382188B2
D) N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)-2-nitrobenzenesulfonamide
To a solution of 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-amine (970 mg) in THF (34 mL) were added triethylamine (706 μL) and o-nitrobenzenesulfonyl chloride (823 mg) at 0° C., and the mixture was stirred at room temperature for 5 hr. Triethylamine (706 μL) and o-nitrobenzenesulfonyl chloride (374 mg) were further added at 0° C., and the mixture was stirred at room temperature for 20 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.31 g) as a yellow gummy substance.

reactant | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-amine | 970 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)N)CC(C)(C)C | C18H22FNO
reactant | triethylamine | 706 μL | C(C)N(CC)CC | C6H15N
reactant | o-nitrobenzenesulfonyl chloride | 823 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | Triethylamine | 706 μL | C(C)N(CC)CC | C6H15N
reactant | o-nitrobenzenesulfonyl chloride | 374 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | Water | O | H2O
solvent | THF | 34 mL | C1CCOC1 | C4H8O
product | N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)-2-nitrobenzenesulfonamide | 1.31 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC(C)(C)C | C24H25FN2O5S
